US04486434
A solution of sulphur trioxide (150 ml) in 1,1,2-tri-fluorotrichloroethane (350 ml) was added over ca 30 min. to a suspension of 2-(4-aminobutyl)-3-methyl-pyridine dihydrobromide (17 g) [prepared by passing hydrogen bromide gas through a solution of the amine in dichloromethane] in 1,1,2-trifluorotrichloroethane (100 ml) and the mixture was heated under reflux for ca 16 hr. The solvent was removed by distillation and unbrominated starting material was removed by acetylation as described in Example 1(h) to yield 5-bromo-2-(4-aminobutyl)-3-methylpyridine (6.53 g) as an oil.

reactant | sulphur trioxide | 150 ml | S(=O)(=O)=O | O3S
reactant | 2-(4-aminobutyl)-3-methyl-pyridine dihydrobromide | 17 g | Br.Br.NCCCCC1=NC=CC=C1C
reactant | hydrogen bromide | Br | BrH
solvent | 1,1,2-tri-fluorotrichloroethane | 350 ml | FC(C(F)(Cl)Cl)(F)Cl | C2Cl3F3
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | 1,1,2-trifluorotrichloroethane | 100 ml | FC(C(F)(Cl)Cl)(F)Cl | C2Cl3F3
product | 5-bromo-2-(4-aminobutyl)-3-methylpyridine | 6.53 g | BrC=1C=C(C(=NC1)CCCCN)C | C10H15BrN2
